US05840892
Preparation of methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate
4.38 g (25 mmol) of 2-chloro-4,6-dimethoxypyrimidine, 3.90 g (25 mmol) of methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate and 0.66 g (6.3 mmol) of sodium methanesulfinate were heated in the presence of 5.17 g (37.5 mmol) of potassium carbonate in 25 ml of N,N-dimethylformamide to 120° C. with stirring. After 2 hours, the solvent was removed in a rotary evaporator at 70° C./20 mbar. The residue was taken up in 30 ml of water and 30 ml of dichloromethane. After the organic phase had been separated off, the aqueous phase was again extracted with 20 ml of dichloromethane. The combined organic phases was washed with water, dried over magnesium sulfate and evaporated. The title product was obtained in a yield of 5.93 g (82.7 percent of theory) in the form of pale yellowish crystals (GC content 99.2 percent). The melting point of the title compound was 104.4° to 107.0° C. Other data concerning the title compound was:

reactant | 2-chloro-4,6-dimethoxypyrimidine | 25 mmol, 4.38 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | methyl (+/-)-2-hydroxy-3,3-dimethylbutanoate | 25 mmol, 3.90 g | OC(C(=O)OC)C(C)(C)C | C7H14O3
reactant | sodium methanesulfinate | 6.3 mmol, 0.66 g | CS(=O)[O-].[Na+]
reactant | potassium carbonate | 37.5 mmol, 5.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | methyl (+/-)-2-(4,6-dimethoxy-2-pyrimidinyloxy)-3,3-dimethylbutanoate | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C)C | C13H20N2O5
